US04435397
Hydrochloric acid gas is bubbed into a mixture of 55 g of o-isopropylanisole, 35 g of formaline and 9 g of zinc chloride with ice cooling and stirring for hours. The reaction mixture is added to ice water and the mixture is extracted with ether to give 70 g of crude 3-isopropyl-4-methoxybenzyl chloride. Potassium cyanide (26 g) is added to 400 ml of acetonitrile, 100 mg of 18-crown 6 is added thereto, and the benzyl chloride compound obtained above is dropped thereinto with refluxing and stirring. After the dropping is completed, the mixture is heated to reflux for ten hours with stirring. The reaction solution is then concentrated in vacuo, water is added to the concentrate, and the mixture is extracted with ether. The resulting extract is purified by subjecting to a distillation in vacuo to give 40 g of 3-isopropyl-4-methoxybenzyl cyanide, boiling point under 1 mm Hg 120°-125° C.

reactant | Hydrochloric acid | Cl | ClH
reactant | o-isopropylanisole | 55 g | C(C)(C)C1=C(C=CC=C1)OC | C10H14O
reactant | formaline | 35 g | C=O | CH2O
catalyst | zinc chloride | 9 g | [Cl-].[Zn+2].[Cl-]
product | 3-isopropyl-4-methoxybenzyl chloride | 70 g | C(C)(C)C=1C=C(CCl)C=CC1OC | C11H15ClO
